### PR TITLE
feat: Add `Language`, `EctxLanguage` and `EctxiLanguage`

### LINKED ISSUE #343: Port program_logic/language.v
## Summary

Port [`program_logic/language.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/language.v).

## Dependencies

**Rocq dependencies:**

- #216
- #253

### LINKED ISSUE #344: Port program_logic/ectx_language.v
## Summary

Port [`program_logic/ectx_language.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/ectx_language.v).

## Dependencies

**Rocq dependencies:**

- #343

### LINKED ISSUE #345: Port program_logic/ectxi_language.v
## Summary

Port [`program_logic/ectxi_language.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/ectxi_language.v).

## Dependencies

**Rocq dependencies:**

- #343
- #344

### PR DESCRIPTION
**Pull request by ayhon**
## Description
Briefly describe your changes, and link any issues if appropriate.

Fixes #343, #344, #345 

## Left to do
 - [ ] Decide on final names of theorems (in particular, do we want to stay with `step_by_val` and some of the more complex names)
 - [ ] Decide on whether to remove the current doc comments

## Checklist
* [ ] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [ ] I have updated `PORTING.md` as appropriate
* [ ] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/ProgramLogic/EctxiLanguage.lean [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+    (Expr     : Type e)
+    (EctxItem : outParam <| Type i)
+    (State    : outParam <| Type σ)
+    (Obs      : outParam <| Type o)
+    (Val      : outParam <| Type v)
+  extends
+    ToVal Expr Val,
+    BaseStep Expr State Obs where
+  fillItem : EctxItem → Expr → Expr
+  fillItem_inj {K} : Function.Injective (fillItem K)
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxiLanguage.lean]: For this and the function below you use `K` in lieu of `Ki`.

File: Iris/Iris/ProgramLogic/EctxiLanguage.lean [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+  fillItem_val (e : Expr) (K : EctxItem) :
+    (toVal (fillItem K e)).isSome →
+    (toVal e).isSome
+
+  fillItem_no_val_inj {e₁ e₂ : Expr} (Ki₁ Ki₂ : EctxItem) :
+    toVal e₁ = none → toVal e₂ = none →
+    fillItem Ki₁ e₁ = fillItem Ki₂ e₂ →
+    Ki₁ = Ki₂
+
+  val_stuck : ∀ {e} {σ : State} {obs e' σ' eₜ},
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxiLanguage.lean:30]: I'm skeptical of Unicode subscripts. They often render weird in certain editors. Personally, I prefer the upstream's `efs`.

File: Iris/Iris/ProgramLogic/EctxLanguage.lean [hunk 3]
```diff
@@ -0,0 +1,442 @@
...
+/-- Whether a type `Ectx` has the `comp` and `empty` operations expected
+    of evaluation contexts.
+
+    These operations are kept inside a separate typeclass so they don't
+    depend on a specific `Expr`. In particular, if `empty` was defined
+    inside of `EvContext`, then since `EvContext.empty` is not enough to
+    infer the type of `Expr` from a given call, it is asked to be given
+    explicitly as `EvContext.empty Expr`, which is inconvenient in practice.
+-/
+class EvContextOps (Ectx : Type c) where
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxLanguage.lean:28]: To what extent is Iris-Lean meant to integrate into Mathlib? It's certainly an option to use https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Defs.html#Monoid here.

File: Iris/Iris/ProgramLogic/EctxLanguage.lean [hunk 4]
```diff
@@ -0,0 +1,442 @@
...
+/-- An evaluation context `Ectx` of expressions `Expr` is an "expression
+    with a hole". This hole can be filled in using the `fill` operation.
+
+    For example, for a lambda calculus `t ::= v | λ x . t | t t` with
+    values `v`, the evaluation contexts could be defined inductively as
+    `K ::= □ | v K | K t`.  -/
+class EvContext (Expr : Type e) (Ectx : outParam <| Type c)
+  extends EvContextOps Ectx
+  where
+  fill  : Ectx → Expr → Expr
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxLanguage.lean]: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Action/Defs.html#MulAction if you want to go crazy (but possibly not worth it)

File: Iris/Iris/ProgramLogic/EctxLanguage.lean [hunk 5]
```diff
@@ -0,0 +1,442 @@
...
+namespace BaseStep
+
+variable [BaseStep Expr State Obs]
+
+/-- The context closure of a base relation. A term `e` reduces under the context closure
+    to a term `e'` if `e` and `e'` share a common context `K`, and their remaining redexes
+    `e₁` and `e₂` reduce under a base step.
+  -/
+@[grind, rocq_alias prim_step]
+inductive ContextClosure [EvContext Expr Ectx] [BaseStep Expr State Obs]
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxLanguage.lean]: Not a huge fan of this name. At the very least I think it should contain "Step". "ContextualStep"?

File: Iris/Iris/ProgramLogic/EctxLanguage.lean [hunk 6]
```diff
@@ -0,0 +1,442 @@
...
+    the base step.  -/
+@[grind]
+instance [BaseStep Expr State Obs] [EvContext Expr Ectx] :
+    PrimStep Expr State (List Obs) where
+  primStep
+  | (e₁, σ₁), obs, (e₂, σ₂, eₜ) =>
+    ContextClosure obs eₜ σ₁ σ₂ e₁ e₂
+
+@[rocq_alias base_reducible]
+def reducible : Expr × State → Prop
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxLanguage.lean]: According to https://leanprover-community.github.io/contribute/naming.html, this and the following definitions should be upper case (just like you `ContextClosure` above)

File: Iris/Iris/ProgramLogic/EctxLanguage.lean [hunk 7]
```diff
@@ -0,0 +1,442 @@
...
+  K = empty
+
+@[rocq_alias LanguageOfEctx]
+instance : Language Expr State Obs Val where
+  val_stuck {e σ obs e' σ' eₜ} primStep := by
+    rcases primStep with ⟨K, bstep⟩
+    grind only [val_stuck, fill_not_val]
+
+@[rocq_alias base_atomic]
+def baseAtomic (a : Language.Atomicity) (e : Expr) : Prop :=
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/EctxLanguage.lean]: Same here

File: Iris/Iris/ProgramLogic/Language.lean [hunk 8]
```diff
@@ -0,0 +1,656 @@
...
+
+open FromMathlib
+
+variable {Expr : Type e}{Val : Type v}{State : Type σ}{Obs : Type o}
+
+class ToVal (Expr : Type e) (Val : outParam <| Type v ) where
+  toVal : Expr → Option Val
+  ofVal : Val → Expr
+  /-- If `toVal` is defined for an expression, `coe` is its inverse -/
+  coe_of_toVal_eq_some (e : Expr)(v : Val) : toVal e = some v → ofVal v = e
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/Language.lean]: coe?

File: Iris/Iris/ProgramLogic/Language.lean [hunk 9]
```diff
@@ -0,0 +1,656 @@
...
+  /-- `toVal` is defined `coe`, and works as its inverse -/
+  toVal_coe (v : Val) : toVal (ofVal v) = some v
+export ToVal (toVal coe_of_toVal_eq_some toVal_coe)
+
+-- attribute [rocq_alias language.to_val] ToVal.toVal
+-- attribute [rocq_alias language.of_val] ToVal.ofVal
+attribute [rocq_alias of_to_val] coe_of_toVal_eq_some
+attribute [rocq_alias to_of_val] ToVal.toVal_coe
+attribute [simp, grind =] ToVal.toVal_coe
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/Language.lean:38]: Add the other inverse to grind?

File: Iris/Iris/ProgramLogic/Language.lean [hunk 10]
```diff
@@ -0,0 +1,656 @@
...
+scoped notation (name := primStep) conf:40 " -<" obs:max ">-> " conf':41  => PrimStep.primStep conf obs conf'
+end Language.Notation
+open Language.Notation
+
+namespace PrimStep
+
+variable [PrimStep Expr State Obs]
+
+@[rocq_alias reducible]
+def reducible : Expr × State → Prop
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/Language.lean]: Naming.

File: Iris/Iris/ProgramLogic/Language.lean [hunk 11]
```diff
@@ -0,0 +1,656 @@
...
+
+/-- A sequence of `Language.erasedStep`s -/
+scoped notation (name := erasedStepStar) conf:40 " -·->ₜₚ* " conf':41 =>
+  Relation.ReflTransGen Language.erasedStep conf conf'
+end Notation
+open Notation
+
+open Relation in
+-- @[rocq_alias erased_step_nsteps]
+theorem erasedStep_NSteps (ρ₁ ρ₂ : List Expr × State) :
```
Comment (maxvistrup) [inline Iris/Iris/ProgramLogic/Language.lean]: https://leanprover-community.github.io/contribute/naming.html#capitalization point 5

File: Iris/Iris/Std/Relation.lean [hunk 12]
```diff
@@ -0,0 +1,54 @@
...
+public import Iris.Std.FromMathlib
+
+open FromMathlib
+
+public section
+
+namespace Relation
+
+/-- Composes a relation `n` times -/
+inductive Iterate {α : Type _} (R : α → α → Prop) : Nat → α → α → Prop where
```
Comment (maxvistrup) [inline Iris/Iris/Std/Relation.lean:12]: - Why not use https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Relation.html#Relation.ReflTransGen ?
- `Iterate` is an overloaded name.

**Review by maxvistrup — COMMENTED** [review]
Nice progress

File: Iris/Iris/ProgramLogic/EctxLanguage.lean (hunk 3 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/EctxLanguage.lean:28]: It has been a topic of discussion, and I think for now the conclusion is "we want Iris to be compatible with Mathlib, but not depend on it". Otherwise, we could do what's done in `Numbers.lean` and require `EmptyCollection Ectx` and `Mul Ectx` (or some other operation) and use those instead of `empty` and `comp`. 

I think for `empty` it would work well to use `EmptyCollection`, so we can write it as`∅`, but the `comp` operation is a bit more arbitrary. Unfortunately, `∘` corresponds directly to `Function.comp`, and not a typeclass, so it can't be overloaded, although it would be the preferred choice.

That's why in the end I chose to go with custom functions.

File: Iris/Iris/ProgramLogic/EctxLanguage.lean (hunk 5 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/EctxLanguage.lean]: Fair. Originally I had `ToPrimitiveStep`, but I wanted the name to tell you more information about the definition. What about one of the following?
 - `StepContextClosure`
 - `StepOverContext`

File: Iris/Iris/ProgramLogic/Language.lean (hunk 8 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean]: `coe` is how coercions are supposed to be referenced in names. A bit further in the file I give `ofVal` the attribute `coe`, which means that it will be displayed as `↑v` by the pretty printer from that point on, and I intend users to invoke it using type ascription, like `(v : Expr)`, which is why I chose to reference it as `coe` instead of `ofVal`. Unfortunately, I couldn't use the coercion directly for the definition, which is why it looks weird here. Maybe it warrants adding a comment above the definition with an explanation of why it's named that way.

Originally, I didn't require an `ofVal` function, and simply embeded the `Coe Val Expr` coercion, but that gave rise to some issues. Further context can be found [here](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Did.20coercions.20stop.20being.20printed.20with.20.60.E2.86.91.60.3F/with/587821793)

File: Iris/Iris/Std/Relation.lean (hunk 12 above)
Comment (ayhon) [reply Iris/Iris/Std/Relation.lean:12]: I do use `ReflTransGen` elsewhere, but for this usecase I needed to give the number of steps explicitly. The name comes from the function [`Nat.iterate`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Function/Iterate.html#Nat.iterate), which does something similar but for functions. My thought process was `Relation.Iterate` is like `Nat.iterate` but for relations.

File: Iris/Iris/ProgramLogic/EctxLanguage.lean (hunk 3 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/EctxLanguage.lean:28]: I do think we should get rid of `EvContextOps` if possible. It's not really an interesting typeclass

File: Iris/Iris/ProgramLogic/EctxLanguage.lean (hunk 5 above)
Comment (maxvistrup) [reply Iris/Iris/ProgramLogic/EctxLanguage.lean]: `Step` tends to be a postfix rather than a prefix. I'd say either `ContextStep` or `ContextualStep` or `RedexStep`.

File: Iris/Iris/ProgramLogic/EctxLanguage.lean (hunk 4 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/EctxLanguage.lean]: I mean, that could work with `Mul Ectx`... But yeah, I don't know how useful having lemmas from `MulAction` will be when dealing with evaluation contexts. Maybe?

File: Iris/Iris/ProgramLogic/EctxiLanguage.lean (hunk 2 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/EctxiLanguage.lean:30]: Is it a problem specifically with subscripts, or subscript / superscript?

I'm ok with changing `eₜ` to `efs` if you'd like, but I think we can assume people using Lean to have an editor with good unicode support. Most probably it will be VSCode, and even if it isn't (I sometimes use `nvim` myself), Lean itself uses superscript all the time when displaying information, for instance when [resolving name clashes of inaccessible names](https://live.lean-lang.org/#codez=FAimA8EMFsAcBtQAJhKQCgBZIFxIHKQAuAlKhtnoaeVrgcWWnVY7ZQzcx9Uxfb3YC23YaVzk0AMUjwAzqGA4AvEgBGATxRo5AewBO%2BjUA)

File: Iris/Iris/ProgramLogic/EctxLanguage.lean (hunk 5 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/EctxLanguage.lean]: `ContextStep` it is then

File: Iris/Iris/ProgramLogic/Language.lean (hunk 9 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean:38]: I worry that the inverse may be a bit too trigger-friendly, grind patterns cannot contain equalities, so it would trigger for every appearance of `ofVal` and `toVal`. These are the patterns available, which don't really share any variables .

```
Try these:
  [apply] [grind .] for pattern: [@ToVal.ofVal #5 #4 #3 #1, @toVal _ _ _ #2]
  [apply] [grind →] for pattern: [@toVal #5 #4 #3 #2, @some _ #1]
```

Maybe these are fine though, because `grind` doesn't support equality patterns precisely because it treats equality as a special case, and therefore more efficiently? To be honest, I simply haven't needed it, which is why I didn't add it. 

I'd be happy to hear other people's thoughts.

File: Iris/Iris/Std/Relation.lean (hunk 12 above)
Comment (maxvistrup) [reply Iris/Iris/Std/Relation.lean:12]: I see.

https://plv.mpi-sws.org/coqdoc/stdpp/stdpp.relations.html#nsteps stdpp calls it nsteps

File: Iris/Iris/Std/List.lean [hunk 13]
```diff
@@ -57,4 +59,51 @@ theorem fresh [InfiniteType A] (X : List A) : ∃ a : A, a ∉ X := by
   simp only [List.length_map, Nalloc, L, List.length_range] at H
   omega
 
+@[expose, match_pattern]
+def Forall₂.append : ∀ {l₁ l₁' l₂ l₂'}, List.Forall₂ R l₁ l₂ → List.Forall₂ R l₁' l₂' → List.Forall₂ R (l₁ ++ l₁') (l₂ ++ l₂')
```
Comment (markusdemedeiros) [inline Iris/Iris/Std/List.lean]: In the future, please move {l₁ l₁' l₂ l₂'} all to the left-hand side of the colon so they don't need to be intro'd

File: Iris/Iris/ProgramLogic/EctxiLanguage.lean (hunk 2 above)
Comment (markusdemedeiros) [reply Iris/Iris/ProgramLogic/EctxiLanguage.lean:30]: Unicode subscripts are fine, and are used all over the codebase anyways

File: Iris/Iris/ProgramLogic/Language.lean [hunk 14]
```diff
@@ -0,0 +1,656 @@
...
+public import Iris.Std.FromMathlib
+public import Iris.Std.Relation
+public import Iris.Std.List
+public meta import Lean.PrettyPrinter.Delaborator
+public import Batteries.Data.List.Basic
+
+#rocq_ignore LanguageMixin "This feature was implemented differently using typeclasses"
+#rocq_ignore language      "This feature was implemented differently using typeclasses"
+
+-- TODO: Consider renaming `ToVal` typeclass to something better, since
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: I think ToVal is adequate

File: Iris/Iris/ProgramLogic/Language.lean [hunk 15]
```diff
@@ -0,0 +1,656 @@
...
+class ToVal (Expr : Type e) (Val : outParam <| Type v ) where
+  toVal : Expr → Option Val
+  ofVal : Val → Expr
+  /-- If `toVal` is defined for an expression, `coe` is its inverse -/
+  coe_of_toVal_eq_some (e : Expr)(v : Val) : toVal e = some v → ofVal v = e
+  /-- `toVal` is defined `coe`, and works as its inverse -/
+  toVal_coe (v : Val) : toVal (ofVal v) = some v
+export ToVal (toVal coe_of_toVal_eq_some toVal_coe)
+
+-- attribute [rocq_alias language.to_val] ToVal.toVal
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean:34]: Why are these commented out?

File: Iris/Iris/ProgramLogic/Language.lean [hunk 16]
```diff
@@ -0,0 +1,656 @@
...
+-- TODO: Consider renaming `ToVal` typeclass to something better, since
+--       it's not just the `toVal` operation it carries.
+
+namespace Iris.ProgramLogic
+
+@[expose] public section
+
+open FromMathlib
+
+variable {Expr : Type e}{Val : Type v}{State : Type σ}{Obs : Type o}
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: Avoid explicit universe levels where possible

File: Iris/Iris/ProgramLogic/Language.lean [hunk 17]
```diff
@@ -0,0 +1,656 @@
...
+@[inherit_doc Language.Step]
+scoped notation (name := Step) conf:40 " -<" obs:max ">->ₜₚ " conf':41 => Language.Step conf obs conf'
+end Notation
+open Notation
+
+def Step.of_primStep : ∀ {e σ}{obs : List Obs}{e'} {σ' : State} {eₜ},
+    (e, σ) -<obs>-> (e', σ', eₜ) →
+    ∀ {t₁ t₂: List Expr},
+    Step (t₁ ++ e :: t₂, σ) obs (t₁ ++ e' :: t₂ ++ eₜ, σ') :=
+  (Language.Step.atomic _ _ _ _ _ _ · _ _)
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: Any time you see a long sequence of underscores you should reconsider if you can make more arguments implicit.

File: Iris/Iris/ProgramLogic/Language.lean [hunk 18]
```diff
@@ -0,0 +1,656 @@
...
+@[rocq_alias prim_step_not_stuck]
+theorem notStuck_of_primStep {e : Expr} {σ obs e' σ' eₜ} :
+    (e, σ) -<obs>-> (e', σ', eₜ) →
+    NotStuck (e, σ) :=
+  fun h => .inr ⟨_, _, _, _, h⟩
+
+@[rocq_alias not_not_stuck, grind =]
+theorem not_not_suck {e : Expr} {σ : State} :
+    (¬ NotStuck (e, σ)) ↔ Stuck (e, σ) := by
+  dsimp [Stuck, NotStuck]
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: Nonterminal simps must be simp only

File: Iris/Iris/ProgramLogic/Language.lean [hunk 19]
```diff
@@ -0,0 +1,656 @@
...
+  match h : (toVal e) with
+  | some v =>
+    simp only [Option.isSome_some, true_or, not_true_eq_false, reduceCtorEq, false_and]
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: terminal simps should not be simp only

File: Iris/Iris/ProgramLogic/Language.lean [hunk 20]
```diff
@@ -0,0 +1,656 @@
...
+  grind only [Irreducible, val_stuck, = Option.isSome_none]
+
+end ReducibilityLemmas
+
+@[rocq_alias atomicity]
+inductive Atomicity where
+| WeaklyAtomic
+| StronglyAtomic
+
+#rocq_ignore stuckness_to_atomicity "There is no `Stuckness` implementation yet."
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: Don't ignore things that we have not decided not to port

File: Iris/Iris/ProgramLogic/Language.lean [hunk 21]
```diff
@@ -0,0 +1,656 @@
...
+  primStep_fill : ∀ {e} {σ : State} {obs e' σ' eₜ},
+    (e, σ) -<obs>-> (e', σ', eₜ) →
+    (K e, σ) -<obs>-> (K e', σ', eₜ)
+  primStep_fill_inv : ∀ {e} {σ : State} {obs K_e' σ' eₜ},
+    toVal e = .none →
+    (K e, σ) -<obs>-> (K_e', σ', eₜ) →
+    ∃ e', K_e' = K e' ∧ (e, σ) -<obs>-> (e', σ', eₜ)
+
+attribute [rocq_alias fill_not_val] Context.toVal_eq_none_fill
+-- attribute [rocq_alias fill_step] Context.primStep_fill
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean:254]: Why commented out?

File: Iris/Iris/ProgramLogic/Language.lean [hunk 22]
```diff
@@ -0,0 +1,656 @@
...
+section PureSteps
+
+/-- There is a pure step between `e₁` and `e₂` iff there is
+    a reduction step `(e₁, σ) -<[]>-> (e₂, σ, [])` for some
+    σ and it is unique.
+
+    Intuitively, the reduction is deterministic and does not
+    depend on the environment.
+-/
+@[rocq_alias pure_step] -- TODO: Why make this a record and not a regular proposition?
```
Comment (markusdemedeiros) [inline Iris/Iris/ProgramLogic/Language.lean]: Not sure I understand your comment. It is a conjunction with named fields for all intents and purposes. What are you wondering about?

Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean]: At the time of writing I was wondering where we might want to refer to the projections directly, I didn't see a use for it. Since then I realized these could be useful when tactics such as `constructor` generate name goals, or simply when used as proof terms. The comment is outdated

File: Iris/Iris/ProgramLogic/Language.lean (hunk 20 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean]: Yeah, my bad, that's not really what `#rocq_ignore` is meant for. `Stuckness` is coming in the weakestpre PR though

File: Iris/Iris/ProgramLogic/Language.lean (hunk 21 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean:254]: Because `fill_step` was already introduced in another file `EctxLanguage` I believe, and doesn't seem to be recognized as a from this file by the [porting website](https://leanprover-community.github.io/iris-lean/)

Comment (markusdemedeiros) [reply Iris/Iris/ProgramLogic/Language.lean:254]: Okay, makes sense. I'll leave the comments in for now.

File: Iris/Iris/ProgramLogic/Language.lean (hunk 15 above)
Comment (ayhon) [reply Iris/Iris/ProgramLogic/Language.lean:34]: I commented them out in https://github.com/leanprover-community/iris-lean/pull/370/changes/f567eefb5c9f13795b0b80499e9925e8862fb997 because they were triggering a "stale entries" error in the CI actions for the porting website. In sort, these identifiers are either not assigned, or not assigned to this file by the website. In this case, I believe it's because projections are not really extracted

**Review by markusdemedeiros — APPROVED** [review]

**Comment by markusdemedeiros** [comment]
@ayhon Looks great. Please review the cleanup changes I made for future PR's and let me know if you have any questions.
